US05824699
A. 4-(3-Bromophenyhydrazono)-1-butanol
Under anhydrous conditions a solution of 3-bromophenylhydrazine hydrochloride (22.5 g, 100 mmol) and 2,3-dihydrofuran (7.55 ml, 100 mmol) in 200 ml of dry THF was stirred at ambient temperature for 3 h. The reaction mixture was partitioned between EtOAc and H2O. The organic phase was washed with H2O and brine. After drying (Na2 SO4), the solvent was evaporated to give 25.6 g of the product as a brown oil. The product was of suitable purity for use in the next step.

reactant | 3-bromophenylhydrazine hydrochloride | 100 mmol, 22.5 g | Cl.BrC=1C=C(C=CC1)NN
reactant | 2,3-dihydrofuran | 100 mmol, 7.55 ml | O1CCC=C1 | C4H6O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(3-Bromophenyhydrazono)-1-butanol | 25.6 g | BrC=1C=C(C=CC1)NN=CCCCO | C10H13BrN2O
